US09169254B2
(2-Chloro-acetyl)-carbamic acid ethyl ester (356 mg, 2.15 mmol) was added to 4-bromo-3-methyl-phenylamine (400 mg, 2.15 mmol) and dimethylphenylamine (273 μL, 2.15 mmol) at room temperature. The mixture was stirred at 130° C. for five hours, and the reaction solution was then cooled. The precipitate was collected by filtration and washed with CH3CN to give 1-(4-bromo-3-methyl-phenyl)-imidazolidine-2,4-dione as a colorless solid (314 mg, 54%).

reactant | (2-Chloro-acetyl)-carbamic acid ethyl ester | 2.15 mmol, 356 mg | C(C)OC(NC(CCl)=O)=O | C5H8ClNO3
reactant | 4-bromo-3-methyl-phenylamine | 2.15 mmol, 400 mg | BrC1=C(C=C(C=C1)N)C | C7H8BrN
reactant | dimethylphenylamine | 2.15 mmol, 273 μL | CN(C1=CC=CC=C1)C | C8H11N
product | 1-(4-bromo-3-methyl-phenyl)-imidazolidine-2,4-dione | 314 mg, 54% | BrC1=C(C=C(C=C1)N1C(NC(C1)=O)=O)C | C10H9BrN2O2
